US08802704B2
Step 2: tert-butyl N-(4-cyano-2-ethylbenzyl)-N-methylglycinate
A mixture of tert-butyl N-(4-cyano-2-vinylbenzyl)-N-methylglycinate (500 mg, 1.75 mmol) and 10% palladium on carbon (50 mg) in methanol (5 mL) were stirred under an atmosphere of hydrogen for 18 hours. The suspension was filtered through a Celite pad and the filter-cake washed with DCM. The filtrate was evaporated in vacuo to afford the title compound (474 mg, 94%).

reactant | tert-butyl N-(4-cyano-2-vinylbenzyl)-N-methylglycinate | 1.75 mmol, 500 mg | C(#N)C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C=C1)C=C | C17H22N2O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | tert-butyl N-(4-cyano-2-ethylbenzyl)-N-methylglycinate | 474 mg, 94% | C(#N)C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C=C1)CC | C17H24N2O2
